US07268151B2
2-[2-Methoxy-4-(1H-1,2,3-triazol-4-yl)phenyl]pyridine
A solution of 2-{2-methoxy4-[(Z)-2-nitroethenyl]phenyl}pyridine (0.23 g, 0.89 mmol) and TMSN3 (0.18 mL, 1.34 mmol) in DMF (1 mL) was heated to slowly to 50° C. while TBAF (0.98 mL, 1.0 M in THF, 0.98 mol) was added dropwise over 20 min. The resulting reaction mixture was continued to stir at 50° C. for 30 min. The mixture was partitioned between sat. NaHCO3 (20 mL) and EtOAc (60 mL). The phases were separated and the aqueous layer was extracted with EtOAc (3×60 mL). The combined organic layers were dried (MgSO4), filtered and concentrated. The residue was purified on silica gel (20:1 hexane-ethyl acetate) to afford a yellow solid.

reactant | 2-{2-methoxy4-[(Z)-2-nitroethenyl]phenyl}pyridine | 0.89 mmol, 0.23 g | COC1=C(C=CC(=C1)\C=C/[N+](=O)[O-])C1=NC=CC=C1 | C14H12N2O3
reactant | TMSN3 | 1.34 mmol, 0.18 mL | [Si](C)(C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | TBAF | 0.98 mol, 1.0 M, 0.98 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-[2-Methoxy-4-(1H-1,2,3-triazol-4-yl)phenyl]pyridine | COC1=C(C=CC(=C1)C=1N=NNC1)C1=NC=CC=C1 | C14H12N4O
